US04882330
1-Phenoxy-4-(4-phenyl-1-piperazinyl)-2-butanol
A mixture of 6.5 g (0.04 mole) of 1-phenylpiperazine, 8.4 g (0.042 mole) of 4-chloro-1-phenoxy-2-butanol and 15.9 g (0.15 mole) of anhydrous sodium carbonate in 200 ml of 1-butanol was heated at reflux 20 hr. The mixture was concentrated under reduced pressure and the residue was partitioned between water and benzene. The benzene layer was washed with water and aqueous saturated sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure to give the title product in the residue which was recrystallized from isopropyl alcohol to give 8.9 g (68%) of white powder, m.p. 93°-94° C.

reactant | 1-phenylpiperazine | 0.04 mole, 6.5 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 4-chloro-1-phenoxy-2-butanol | 0.042 mole, 8.4 g | ClCCC(COC1=CC=CC=C1)O | C10H13ClO2
reactant | sodium carbonate | 0.15 mole, 15.9 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-butanol | 200 ml | C(CCC)O | C4H10O
product | 1-Phenoxy-4-(4-phenyl-1-piperazinyl)-2-butanol | O(C1=CC=CC=C1)CC(CCN1CCN(CC1)C1=CC=CC=C1)O | C20H26N2O2
